* C:\Projects\Github\arduino_adjustable_power_supply\simulations\final_output.asc
C1 vout 0 10µ V=33 Irms=0 Rser=0.3 Lser=0 mfg="KEMET" pn="T495D106M035AS" type="Tantalum"
V1 vin 0 4.25
R2 vout N005 121
R3 N005 0 880
XU2 N003 step_up N002 0 N007 N008 step_up LT1578
C2 N002 N003 33µ
C3 step-down 0 10µ
C4 N007 0 100p
C5 step_up 0 10µ
D1 0 N003 1N5818
D2 step-down N002 1N914
R4 step-down N008 2k
R5 N008 0 121
L1 N003 step-down 60µH
XU3 N004 step_up vin N006 vin vin vin N001 0 LT3473
L2 vin N001 6.8µ
C6 N004 0 .47µ
C7 vin 0 4.7µ
R1 N004 N006 2000k
R6 N006 0 50k
C8 step_up 0 2.2µ
XU5 N005 vout step-down LT317A
I1 vout 0 SINE(0 1 200 3m 0 .5m)
.model D D
.lib C:\Users\emuno\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 5m 0 1u
.lib LT1578.sub
.lib LT3473.sub
.lib LTC.lib
.backanno
.end
